US07855194B2
3-Isobutoxy-4-methoxy-benzaldehyde [CAS RN 57724-26-2]
The title compound was prepared by reaction of isovanillin with 1-bromo-2-methyl propane as described in WO 04/000 806 A1 (Elbion A G).

reactant | isovanillin | O=CC1=CC(O)=C(OC)C=C1 | C8H8O3
reactant | 1-bromo-2-methyl propane | BrCC(C)C | C4H9Br
product | 3-Isobutoxy-4-methoxy-benzaldehyde | C(C(C)C)OC=1C=C(C=O)C=CC1OC | C12H16O3
